US06001997
(a) Methyl 5-methyl-2-furoate
A solution of methyl 5-chloromethyl-2-furoate (5.0 g, 28.7 mmol) in ethyl acetate (40 ml) was hydrogenated over 10% palladium on charcoal (50 mg) for 3 h. The catalyst was filtered off and washed with ethyl acetate. The combined filtrates were concentrated in vacuo and the residue purified by chromatography on silica gel eluting with 10% ethyl acetate in hexane to yield the title compound as a colourless oil (3.78 g, 94%); νmax (CH2Cl2) 1725, 1534, 1522, 1437 and 1311 cm-1 ; δH (CDCl3, 90 MHz) 2.38 (3 H, s), 3.86 (3 H, s), 6.12 (1 H, br d, J 4 Hz) and 7.07 (1 H, d, J 4 Hz). [Mass spectrum: M+ (140)].

reactant | methyl 5-chloromethyl-2-furoate | 28.7 mmol, 5.0 g | ClCC1=CC=C(O1)C(=O)OC | C7H7ClO3
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | Methyl 5-methyl-2-furoate | 3.78 g, 94% | CC1=CC=C(O1)C(=O)OC | C7H8O3
